US04933367
A saturated solution of gaseous ammonia in 25 ml of methylene chloride is added drop by drop at -10° C. to a solution of 5.6 (17 mmol) of ethyl 2-(chlorocarbonyl)-7-(4-chlorophenyl)heptanoate in 50 ml of methylene chloride. The mixture is stirred for 30 minutes at room temperature, suction filtered from the ammonium chloride, the filtrate is washed with water, and dried and concentrated. The concentrate is chromatographed on silica gel with a mixture of toluene and dioxane (5:1). 3.6 g (68% of theory) is obtained of ethyl 2-(aminocarbonyl)-7-(4-chlorophenyl)heptanoate, M.P. 110°-111° C.

reactant | ammonia | N | H3N
reactant | ethyl 2-(chlorocarbonyl)-7-(4-chlorophenyl)heptanoate | ClC(=O)C(C(=O)OCC)CCCCCC1=CC=C(C=C1)Cl | C16H20Cl2O3
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-(aminocarbonyl)-7-(4-chlorophenyl)heptanoate | NC(=O)C(C(=O)OCC)CCCCCC1=CC=C(C=C1)Cl | C16H22ClNO3
